US07459451B2
To a stirred solution of ethyl 1-ethyl-6-(4-methoxyphenyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (88 mg) in DCM (3 ml) was added 1N diisobutylaluminum hydride in toluene (0.63 ml) at −78° C. and the reaction mixtrue was stirred at −78° C. for 1.5 hours. Another 1N diisobutylaluminum hydride in toluene (0.31 ml) was added at −78° C. and the reaction mxitrue was stirred at −78° C. for 2.5 hours. The reaction mixture was quenched with brine, filtrated through celite pad, and the filtrate was concentrated in vacuo. The residue-was purified by preparative thin layer chromatography eluting with a mixture of CHCl3 and MeOH (9:1) to give [1-ethyl-6-(4-methoxyphenyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (21 mg) as a light yellow oil.

reactant | ethyl 1-ethyl-6-(4-methoxyphenyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 88 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)OCC)C2=CC=C(C=C2)OC | C24H24N4O3
reactant | diisobutylaluminum hydride | 1N | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1N | [H-].C(C(C)C)[Al+]CC(C)C
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 0.63 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.31 ml | C1(=CC=CC=C1)C | C7H8
product | [1-ethyl-6-(4-methoxyphenyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 21 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CO)C2=CC=C(C=C2)OC | C22H22N4O2
